US08278338B2
2.6 ml of thionyl chloride were added dropwise, with the pronounced evolution of gas, to 2.17 g of 2-dimethylaminomethyl-1-pyridin-3-yl-indan-1-ol (mixture of the diastereoisomers), and the mixture was heated for 2.5 hours at 65° C., with stirring, and then concentrated in a water-jet pump. After cooling, first water and then 1 M sodium carbonate solution were added, and extraction was then carried out with tetrahydrofuran/ethyl acetate; the combined extracts were dried over magnesium sulfate, filtered and concentrated. The resulting crude product (1.4 g) was dissolved in about 17 ml of absolute ethanol and converted into the corresponding hydrochloride with water and chlorotrimethylsilane. The resulting solid was filtered off with suction, washed with a small amount of absolute ethanol and dried at 120° C. in vacuo (about 50 mbar). 1.74 g of dimethyl-(3-pyridin-3-yl-1H-inden-2-ylmethyl)-amine hydrochloride having a melting point of from 156° C. to 159° C. were obtained.

reactant | thionyl chloride | 2.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-dimethylaminomethyl-1-pyridin-3-yl-indan-1-ol | 2.17 g | CN(C)CC1C(C2=CC=CC=C2C1)(O)C=1C=NC=CC1 | C17H20N2O
product | dimethyl-(3-pyridin-3-yl-1H-inden-2-ylmethyl)-amine hydrochloride | 1.74 g | Cl.CN(CC=1CC2=CC=CC=C2C1C=1C=NC=CC1)C | InChI=1S/C17H18N2.ClH/c1-19(2)12-15-10-13-6-3-4-8-16(13)17(15)14-7-5-9-18-11-14;/h3-9,11H,10,12H2,1-2H3;1H
